US04810712
6.0 g (0.023 mole) of 3,4-dihydro-6-bromoacetylquinolin-2(1H)-one, 4.8 g (0.025 mole) of 1,1-dimethyl-3-(2-methoxy-phenyl)-propanamine and 3.2 g (0.03 mole) of potassium carbonate are stirred in 100 ml of dimethylformamide at room temperature for 24 hours. After dilution with methanol, the product is reduced with an excess of sodium borohydride. The solvents are removed in vacuo, the residue is taken up in methylene chloride and the mixture is extracted with water. Column chromatography on silica gel (CHCl3 /MeOH 90/10) gives 3,4-dihydro-6-[1-hydroxy-2-[[1,1-dimethyl-3-(2-methoxy-phenyl)-propyl]-amino]-ethyl]-quinolin-2(1H)-one as a base, which is converted into the hydrochloride in the customary manner. Melting point 180° C. (decomposition).

reactant | 3,4-dihydro-6-bromoacetylquinolin-2(1H)-one | 0.023 mole, 6.0 g | BrCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10BrNO2
reactant | 1,1-dimethyl-3-(2-methoxy-phenyl)-propanamine | 0.025 mole, 4.8 g | CC(CCC1=C(C=CC=C1)OC)(N)C | C12H19NO
reactant | potassium carbonate | 0.03 mole, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 3,4-dihydro-6-[1-hydroxy-2-[[1,1-dimethyl-3-(2-methoxy-phenyl)-propyl]-amino]-ethyl]-quinolin-2(1H)-one | OC(CNC(CCC1=C(C=CC=C1)OC)(C)C)C=1C=C2CCC(NC2=CC1)=O | C23H30N2O3
